US06780996B2
4-[(2,4-Dichloro-5-methoxyphenyl)amino]-7-fluoro-6-(2-morpholin-4-ylethoxy)-3-quinolinecarbonitrile
Following the procedure of Reference Example 8, a mixture of 4-chloro-7-fluoro-6-(2-morpholin-4-ylethoxy)-3-quinolinecarbonitrile (136 mg, 0.41 mmol), 2,4-dichloro-5-methoxyaniline (90.5 mg, 0.47 mmol) and pyridine hydrochloride (95 mg, 0.82 mmol) provides, after preparative thin layer chromatography eluting with 7% methanol in dichloromethane, 58 mg of 4-[(2,4-dichloro-5-methoxyphenyl)amino]-7-fluoro-6-(2-morpholin-4-ylethoxy)-3-quinolinecarbonitrile, mp 166-168° C.

reactant | 4-chloro-7-fluoro-6-(2-morpholin-4-ylethoxy)-3-quinolinecarbonitrile | 0.41 mmol, 136 mg | ClC1=C(C=NC2=CC(=C(C=C12)OCCN1CCOCC1)F)C#N | C16H15ClFN3O2
reactant | 2,4-dichloro-5-methoxyaniline | 0.47 mmol, 90.5 mg | ClC1=C(N)C=C(C(=C1)Cl)OC | C7H7Cl2NO
reactant | pyridine hydrochloride | 0.82 mmol, 95 mg | Cl.N1=CC=CC=C1
product | 4-[(2,4-Dichloro-5-methoxyphenyl)amino]-7-fluoro-6-(2-morpholin-4-ylethoxy)-3-quinolinecarbonitrile | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C(C=NC2=CC(=C(C=C12)OCCN1CCOCC1)F)C#N | C23H21Cl2FN4O3
